US06416861B1
Preparation of 2-Allyldimethylsilylthiophene (1 Scheme 28).
To a solution of thiophene (8.4 g, 0.1 mol) in dried THF (300 mL) at −78° C. was added n-butyllithium (40 mL, 2.5 M solution in hexanes, 0.1 mol) over a period of 5 min. After 30 min of further stirring at −78° C., allylchlorodimethylsilane (13.5 g, 0.1 mol) was added dropwise over a period of 20 min, and the reaction mixture was warmed to room temperature. After 1 h of further stirring at room temperature, concentrated NH4Cl (3 mL) was added, and the reaction mixture was concentrated. Kugelrohr distillation of the crude oil under reduced pressure afforded a colorless oil (16.7 g, 92%); 1H NMR (300 MHz, CDCl3) δ 0.39 (s, 6 H), 1.84 (dd, J=8.10, 1.20 Hz, 2 H), 4.92 (s, 1 H), 4.97 (m, 1 H), 5.85 (m, 1 H), 7.24 (m, 1 H), 7.33 (dd, J=3.30, 1.50 Hz, 1 H), 7.65 (dd, J=5.70, 1.20 Hz, 1 H); 13C NMR (75M Hz, CDCl3) −2.0 (2C), 24.8, 114.2, 128.4, 131.0, 134.4, 134.8, 138.3; HRMS (EI) calcd for C9H15SSi 182.0585, found 182.0583.

reactant | thiophene | 0.1 mol, 8.4 g | S1C=CC=C1 | C4H4S
reactant | n-butyllithium | 0.1 mol, 2.5 M, 40 mL | C(CCC)[Li]
reactant | allylchlorodimethylsilane | 0.1 mol, 13.5 g | C(C=C)[Si](C)(C)Cl | C5H11ClSi
reactant | NH4Cl | 3 mL | [NH4+].[Cl-]
solvent | THF | 300 mL | C1CCOC1 | C4H8O
product | 2-Allyldimethylsilylthiophene | 16.7 g, 92% | C(C=C)C=1SC=CC1[SiH](C)C | C9H14SSi
